US07939589B2
Synthesis of 2-((1-aminocyclohexyl)methylamino)-2-(hydroxymethyl)propane-1,3-diol (TA-ACyHM)
The reactor mixture is filtered to remove the catalyst; the filtrate is clear and pale yellow. The methanol and water are removed from the filtrate by rotary evaporation to give 80.6 grams of an off-white paste product. GC analysis shows this product to contain nearly 20% of residual TA. This product is mixed with 500 mL of ethyl acetate, and the mixture is heated to reflux for about 15 minutes. The mixture is cooled to room temperature, then it is filtered free of the TA solids. The solids are washed on the filter with ethyl acetate, then the combined filtrate and washings are solvent stripped by rotary evaporation to give 67.7 grams (76%) of TA-ACyHM as a very viscous oil. GC analysis shows a product purity of >98%, with traces of cyclohexylamine, 1-aminocyclohexanemethanol (ACyHM), and oxazolidine byproduct. GC/MS, IR, 1H- and 13C-NMR analyses are consistent with the desired structure. Titration gives pK1=9.7 and pK2=4.5. Volatility by the modified EPA Test Method 24 is 3.8%.

reactant | ACyHM | NC1(CCCCC1)CO | C7H15NO
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | oxazolidine | O1CNCC1 | C3H7NO
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2-((1-aminocyclohexyl)methylamino)-2-(hydroxymethyl)propane-1,3-diol | NC1(CCCCC1)CNC(CO)(CO)CO | C11H24N2O3
